US04585796
A mixture of 20 g of 4-(3-aminopropyl)benzenesulphonamide, 16.8 g of (R)-styrene oxide and 500 ml of acetonitrile was heated under reflux for 40 hours. The solvent was then removed by evaporation in vacuo and the residue was chromatographed on 1 kg of silica gel. With chloroform/n-propanol25% ammonia (1600:100:4) there could be isolated 8.3 g of pure p-[3-[[(R)-β-hydroxyphenethyl]amino]propyl]benzenesulphonamide of melting point 165°-166° (from acetonitrile); [α]D20 =-13.4° (c=1.0% in methanol); ε224 =14710.

reactant | 4-(3-aminopropyl)benzenesulphonamide | 20 g | NCCCC1=CC=C(C=C1)S(=O)(=O)N | C9H14N2O2S
reactant | (R)-styrene oxide | 16.8 g | C1[C@@H](C2=CC=CC=C2)O1 | C8H8O
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | p-[3-[[(R)-β-hydroxyphenethyl]amino]propyl]benzenesulphonamide | 8.3 g | O[C@@H](CNCCCC1=CC=C(C=C1)S(=O)(=O)N)C1=CC=CC=C1 | C17H22N2O3S
